US06476077B1
(iii) N-[(S)-2-(3,4Dichlorophenyl)-4-oxobutyl]-N-methyl-3-cyano-1-naphthamide
A solution of oxalyl chloride (15.9 g, 125.4 mmol) dissolved in DCM (350 mL) was cooled to −78° C. DMSO (19.6 g, 251 mmol) was added dropwise over 10 minutes while maintaining the temperature of the reaction mixture below −70° C. The mixture was stirred for 30 min at −78° C. A solution of N-[(S)-2-(3,4-dichlorophenyl)-4-hydroxybutyl]-N-methyl-3-cyano-1-naphthamide (26.8 g, 62.7 mmol) was dissolved in DCM (350 mL) and added dropwise over 30 min while maintaining the temperature of the mixture below −70° C. The mixture was allowed to stir for one h at −78° C., then warmed to −50° C. and stirred for another 30 minutes. The mixture was cooled to −78° C. and a solution of triethylamine (25.4 g, 251 mmol) dissolved in DCM (70 mL) was added dropwise over 10 min. The mixture was then allowed to warm gradually to ambient temperature and stir for 20 hours. The mixture was then washed with 0.5N hydrochloric acid (2×250 mL), water (250 mL), and saturated sodium bicarbonate (250 mL). The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by chromatography (silica gel; 0-20% Et2O in DCM) to provide the desired product as a light yellow foam (26.0 g, 97%). MS: 425 (M+H). 1H-NMR (DMSO-d6) δ2.63 (bs, 3H, NCH3); 2.99-3.93 (m, 5H, CH); 6.91-7.15 (m, 1H, aromatic); 7.33-7.81 (m, 6H, aromatic); 8.62 (s, 1H, aromatic); 9.45 and 9.73 (singlets, 1H total, CHO).

reactant | oxalyl chloride | 125.4 mmol, 15.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 251 mmol, 19.6 g | CS(=O)C | C2H6OS
reactant | N-[(S)-2-(3,4-dichlorophenyl)-4-hydroxybutyl]-N-methyl-3-cyano-1-naphthamide | 62.7 mmol, 26.8 g | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(=O)C1=CC(=CC2=CC=CC=C12)C#N)C)CCO | C23H20Cl2N2O2
reactant | triethylamine | 251 mmol, 25.4 g | C(C)N(CC)CC | C6H15N
solvent | DCM | 350 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 350 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | N-[(S)-2-(3,4Dichlorophenyl)-4-oxobutyl]-N-methyl-3-cyano-1-naphthamide | 26.0 g, 97% | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(=O)C1=CC(=CC2=CC=CC=C12)C#N)C)CC=O | C23H18Cl2N2O2
